US05219847
I-8-4: Synthesis of 6-hexyloxy-2-hydroxymethylpyridine
To a solution of 6.85 g (27 mmol) of 2-acetoxymethyl-6-hexyloxypyridine dissolved in 20 ml of ethanol was charged 20 ml of an 8% sodium hydroxide solution, and the mixture was refluxed for one hour. After removal of the ethanol under a reduced pressure, the residue was extracted with ether and separated by silica gel column chromatography (ethyl acetate:hexane=1:3) to give 5.13 g of the desired product (yield 89.9%).

reactant | 2-acetoxymethyl-6-hexyloxypyridine | 27 mmol, 6.85 g | C(C)(=O)OCC1=NC(=CC=C1)OCCCCCC | C14H21NO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-hexyloxy-2-hydroxymethylpyridine | 5.13 g, yield 89.9% | C(CCCCC)OC1=CC=CC(=N1)CO | C12H19NO2
